US04535166
2-(4'-methoxyphenyl)-propionic acid
A mixture of 2-bromo-1,1-dimethoxy-1-(4'-methoxyphenyl)-propane (2.89 g; 0.01 mol), calcium carbonate (1 g; 0.01 mol), methanol (7 ml) and water (3 ml) is refluxed for 35 hours. The reaction mixture is then cooled to 25° C. and worked up as described in Example 1a, there is so obtained the title product (1.69 g; 0.0094 mol). Yield, 94%; m.p. 55° C.

reactant | 2-bromo-1,1-dimethoxy-1-(4'-methoxyphenyl)-propane | 0.01 mol, 2.89 g | BrC(C(C1=CC=C(C=C1)OC)(OC)OC)C | C12H17BrO3
reactant | calcium carbonate | 0.01 mol, 1 g | C([O-])([O-])=O.[Ca+2]
reactant | methanol | 7 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 2-(4'-methoxyphenyl)-propionic acid | 0.0094 mol, 1.69 g | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
